US06087380
1-Methyl-2-[N-(4-amidino-2-ethyl-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyano-2-ethyl-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 61% of theory C30H34N6O3 (526.6) ##EQU103##

reactant | 1-methyl-2-[N-(4-cyano-2-ethyl-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=C(C=C(C=C2)C#N)CC)C)C=C1)CCC(=O)OCC | C30H31N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[N-(4-amidino-2-ethyl-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 61% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=C(C=C(C=C2)C(N)=N)CC)C)C=C1)CCC(=O)OCC | InChI=1S/C30H34N6O3.ClH/c1-4-20-17-21(29(31)32)11-13-24(20)33-19-27-34-25-18-22(12-14-26(25)35(27)3)30(38)36(16-15-28(37)39-5-2)23-9-7-6-8-10-23;/h6-14,17-18,33H,4-5,15-16,19H2,1-3H3,(H3,31,32);1H
